US04563449
To a mixture of sodium 2-ethoxyimino-2-(5-diaminophosphorylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (2.10 g) and sodium bicarbonate (1.12 g) in N,N-dimethylacetamide (21 ml) was added methanesulfonyl chloride (1.03 ml) under cooling in an ice-bath and stirring, which was continued for one hour and 45 minutes and cooled to -20° C. To the cold reaction mixture was added a solution of 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride dihydrate (2.39 g) and monotrimethylsilylacetamide (11.96 g) in methylene chloride (48 ml) at -18° C. under stirring, which was continued for 30 minutes at -18° to -12° C. and for 30 minutes at -10° to 0° C. The reaction mixture was poured into diisopropyl ether (700 ml) and the resulting precipitates were separated by decantation. The residue was dissolved in water (100 ml), adjusted to pH 3.8 with 1N hydrochloric acid and subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (105 ml). After the column was washed with water (500 ml), the elution was carried out with 20% aqueous methanol. The fractions containing the object compound were collected, evaporated to remove methanol and lyophilized to give 7-[2-ethoxyimino-2-(5-diaminophosphorylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (1.11 g), mp 123° to 132° C. (dec.).

reactant | sodium 2-ethoxyimino-2-(5-diaminophosphorylamino-1,2,4-thiadiazol-3-yl)acetate | 2.10 g | C(C)ON=C(C(=O)[O-])C1=NSC(=N1)NP(=O)(N)N.[Na+]
reactant | sodium bicarbonate | 1.12 g | C([O-])(O)=O.[Na+]
reactant | methanesulfonyl chloride | 1.03 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride dihydrate | 2.39 g | O.O.Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O
reactant | diisopropyl ether | 700 ml | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylacetamide | 21 ml | CN(C(C)=O)C | C4H9NO
solvent | methylene chloride | 48 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-ethoxyimino-2-(5-diaminophosphorylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 1.11 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NP(=O)(N)N | C19H22N9O6PS2
